US05464808
Preparation of 1-[(α-cyclopropyl-α-hydroxy-o-tolyl)sulfamoyl]-3-(4,6-dimethoxy-2-pyrimidinyl)urea
Chlorosulfonyl isocyanate (0.53 mL, 0.86 g, 6.1 mmol) is added to a solution of 2-amino-4,6-dimethoxypyrimidine (0.95 g, 6.1 mmol) in methylene chloride at 0° C. The resulting mixture is stirred for 30 minutes and a solution of o-amino-α-cyclopropylbenzyl alcohol (1.00 g, 6.1 mmol) and triethylamine (1.45 mL, 1.05 g, 10.4 mmol) in methylene chloride is slowly added to the mixture. The resulting solution is stirred at room temperature for hours, concentrated in vacuo and dissolved in methanol. The methanol solution is adjusted to about pH 1 with 10% hydrochloric acid and extracted with methylene chloride. The combined organic extracts are dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and 30% to 50% ethyl acetate in hexanes solutions gives the title product as a white solid (0.55 g, 21%, mp 66°-69° C.) which is identified by 1HNMR and MS spectral analyses.

reactant | Chlorosulfonyl isocyanate | 6.1 mmol, 0.53 mL, 0.86 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-amino-4,6-dimethoxypyrimidine | 6.1 mmol, 0.95 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | o-amino-α-cyclopropylbenzyl alcohol | 6.1 mmol, 1.00 g | NC1=C(C(C2CC2)O)C=CC=C1 | C10H13NO
reactant | triethylamine | 10.4 mmol, 1.45 mL, 1.05 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(α-cyclopropyl-α-hydroxy-o-tolyl)sulfamoyl]-3-(4,6-dimethoxy-2-pyrimidinyl)urea | 0.55 g, 21% | C1(CC1)C(C1=C(C=CC=C1)NS(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC)O | C17H21N5O6S
